Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
passing out 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ female with past medical history of
iron deficiency who presents with 3 episodes of syncope within
the past 24 hours.  Her symptoms started yesterday morning when
she woke up with significant pain in her right buttocks.  She
denied a history of trauma to this area or any kind of
musculoskeletal injury to it.  Later in the evening, she was
laying in bed sleeping and woke up in the middle the night
feeling acutely nauseated and generally unwell and went to the
bathroom where she passed out.  She then woke up and returned to
bed.  This then happened again where she would became unwell
while sleeping and passed out when walking to the bathroom, but 
returned to bed afterwards.  The next morning, she went to her
daughter's apartment on the floor above her and passed out again
when she got there.  Her daughter did not see her before she
passed out but afterwards noted that she regained consciousness
immediately but was sweaty and generally looking unwell.  Other
than passing a few times when she was a teenager, she has never
had any of these episodes before. 

Prior to these episodes, she recently flew from ___ to ___ to ___ on ___.  She noted that a few days
after this flight she developed a dry cough but denied any
hemoptysis.  She endorsed some swelling in her legs bilaterally,
but noted that this went away and that this was not unusual for
her after long flights.  Since then she has been feeling
generally unwell and fatigued and has been taking vitamin C to
help herself feel better. She is up-to-date on her cancer
screenings including colonoscopy, mammogram, and Pap smear 
within
the past ___ years, all of which were normal. She has no past
history of blood clots nor does she have any family history of
blood clots.

She denies any chest pain, shortness of breath, palpitations,
hemoptysis, nausea, vomiting, diarrhea, weight loss, headaches,
vision changes, weakness, numbness, bruising.  
 
In the ED, initial vital signs were 98.8 79 93/57 18 98% RA. 
Exam
notable for bruising on anterior and right forehead, tenderness
over buttock over ischial tuberosity. Labs significant for
leukocytosis (WBC 12.3) with neutrophilia, urinalysis with 40
ketones, negative troponins, and normal renal function. CT head
without contrast was negative for acute intracranial process.
Pelvic x-ray negative for acute fracture. She was given 1L NS 
and
1,000 mg acetaminophen. 

Upon arrival to the floor, the patient endorses ongoing buttocks
pain and dry cough but otherwise feels well. 
 

 
Past Medical History:
Iron deficiency anemia 
 
Social History:
___
Family History:
Denies family history of sudden death or heart
disease at young age.  Mother had stomach cancer, father had
lymphoma, and uncle had kidney cancer.  Her daughter is healthy. 

Denies any family history of blood clots.

 
Physical Exam:
ADMISSION PHYSICAL EXAM
======================== 
Vitals: Tc 97.8 HR 95/60 69 16 97%Ra 
GENERAL: Well-appearing woman who is lying in bed in no acute
distress
HEENT: Normocephalic, atraumatic. Pupils equal, round, and
reactive bilaterally, extraocular muscles intact. No 
conjunctival
pallor or injection, sclera anicteric and without injection.
Moist mucous membranes, good dentition. Oropharynx is clear.  
NECK: Thyroid is normal in size and texture. No cervical
lymphadenopathy.  
CARDIAC: Regular rhythm, normal rate, no murmurs/rubs/gallops. 
No JVD.  
LUNGS: Clear to auscultation bilaterally w/appropriate breath
sounds appreciated in all fields. No wheezes, rhonchi or rales.
Resonant to percussion.   
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. Soft. No organomegaly or 
masses.
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally.  No palpable cords or asymmetry in lower
extremities.
SKIN: No evidence of ulcers, rash or lesions.
MSK: Tender to palpation over R buttocks with some mass without
any obvious bruising.
NEUROLOGIC: CN2-12 intact. ___ strength througout. Normal
sensation. Gait is normal and patient able to walk to restroom 
by
herself. 

DISCHARGE PHYSICAL EXAM
======================== 
Vitals: 98.0 97/63 83 18 97%RA 
GENERAL: Well-appearing woman sitting up in bed in no acute 
distress
HEENT: PERRL. EOMI. MMM. Oropharynx is clear.  
NECK: No JVD.   
CARDIAC: RRR. Nl s1/s2. No m/r/g
LUNGS: CTAB. No w/r/r  
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. Soft. No organomegaly or 
masses.
EXTREMITIES: No clubbing, cyanosis, or edema. 
SKIN: No evidence of ulcers, rash or lesions.
MSK: Tender to palpation over R buttocks
NEUROLOGIC: CN2-12 intact. ___ strength throughout. Normal
sensation. 
 
Pertinent Results:
===============
Admission labs
===============
___ 10:38AM BLOOD WBC-12.3* RBC-3.92 Hgb-11.7 Hct-34.4 
MCV-88 MCH-29.8 MCHC-34.0 RDW-11.9 RDWSD-38.2 Plt ___
___ 10:38AM BLOOD Neuts-84.3* Lymphs-8.1* Monos-6.8 
Eos-0.0* Baso-0.3 Im ___ AbsNeut-10.33* AbsLymp-1.00* 
AbsMono-0.84* AbsEos-0.00* AbsBaso-0.04
___ 10:38AM BLOOD ___ PTT-26.8 ___
___ 10:38AM BLOOD Glucose-97 UreaN-19 Creat-0.7 Na-136 
K-5.4* Cl-98 HCO3-24 AnGap-14   
___ 12:41PM BLOOD K-4.7

===============
Pertinent labs
===============
___ 10:38AM BLOOD D-Dimer-2710*
___ 10:38AM BLOOD TSH-2.5
___ 09:45PM BLOOD cTropnT-<0.01
___ 05:45PM BLOOD cTropnT-<0.01
___ 10:38AM BLOOD cTropnT-<0.01

===============
Discharge labs
===============
___ 07:30AM BLOOD WBC-9.8 RBC-4.33 Hgb-13.0 Hct-38.8 MCV-90 
MCH-30.0 MCHC-33.5 RDW-12.0 RDWSD-39.4 Plt ___
___ 07:30AM BLOOD Neuts-64.6 ___ Monos-8.1 Eos-0.9* 
Baso-0.6 Im ___ AbsNeut-6.34* AbsLymp-2.50 AbsMono-0.79 
AbsEos-0.09 AbsBaso-0.06
___ 07:30AM BLOOD Glucose-88 UreaN-14 Creat-0.7 Na-141 
K-4.3 Cl-100 HCO3-26 AnGap-15

===============
Studies
===============
TTE (___): The left atrium is normal in size. No atrial septal 
defect is seen by 2D or color Doppler. Normal left ventricular 
wall thickness, cavity size, and regional/global systolic 
function (biplane LVEF = 64 %). Tissue Doppler imaging suggests 
a normal left ventricular filling pressure (PCWP<12mmHg). There 
is no left ventricular outflow obstruction at rest or with 
Valsalva. Right ventricular chamber size and free wall motion 
are normal. The aortic valve leaflets (3) appear structurally 
normal with good leaflet excursion and no aortic stenosis or 
aortic regurgitation. The mitral valve appears structurally 
normal with trivial mitral regurgitation. There is no mitral 
valve prolapse. The estimated pulmonary artery systolic pressure 
is normal. There is no pericardial effusion. IMPRESSION: No 
structural cause for syncope identified. Normal biventricular 
systolic function.  

___ US (___): IMPRESSION:  No evidence of deep venous thrombosis
in the right or left lower extremity veins. 

CTA Chest (___): IMPRESSION:  No evidence of pulmonary embolism
or aortic abnormality. 

US Soft Tissue (___): IMPRESSION:  No abnormality is identified
in the superficial tissues of the right buttock. 

EKG (___):  Normal sinus rhythm with 1st degree AV block. 

CT Head (___): IMPRESSION: No acute intracranial process. 

===============
Microbiology 
===============
Urine culture (___): NEGATIVE
Blood cultures (___): No growth to date

 
Brief Hospital Course:
SUMMARY: Ms. ___ is a ___ year old F from ___
visiting ___ for a few weeks with no significant past medical
history who presents with three episodes of unprovoked syncope 
with labs notable for leukcytosis.

=============
ACUTE ISSUES:
============= 
# Syncope
Patient presenting with new onset of 3 syncopal episodes in 24 
hours associated with dry cough and R buttocks pain. D-dimer was 
elevated to 2710. Extensive workup done which showed CTA 
negative for PE, lower extremity Doppler US negative for DVT, 
TTE with normal cardiac function, negative orthostatic vital 
signs, normal TSH, normal electrolytes, and negative troponin 
x3. EKG did have 1st degree heart block but telemetry without 
worsening heart block or arrhythmia. Ideally, would have sent 
out with cardiac rhythm monitoring, but patient is from ___ 
and returning soon. Symptoms resolved by the time of discharge. 
This was likely neurogenic syncope in the setting of leg pain 
vs. orthostatic hypotension in the setting of possible upper 
respiratory tract infection. 
[] Recommend primary care doctor to repeat EKG and consider 
workup of 1st degree heart block 
[] Recommend primary care doctor to place on cardiac monitoring 
(Holter monitoring ___ of Hearts)

# Leukocytosis 
Patient with mild leukocytosis to 12.3 with neutophilia and some 
associated hypotension with systolic BPs in ___. 
Leukocytosis resolved and workup for blood and urine infections 
and pneumonia negative. Resolved without intervention. ___ have 
been secondary to viral infection. 

# Buttocks pain
Patient with acute onset of R buttocks pain without strain or 
injury. Exam with some tenderness and mass. Ultrasound negative 
for mass or abscess. Likely musculoskeletal strain. She did not 
require pain medications. 

===============
CHRONIC ISSUES:
=============== 
# History of iron deficiency anemia
Patient with reported history of iron deficiency anemia. Hgb 
normal at 13.0. 

====================
TRANSITIONAL ISSUES:
====================
[] Recommend primary care doctor to repeat EKG and consider 
further workup of 1st degree heart block and syncope 

Advanced Care Planning
#Code status: Full, presumed 
#Contact: ___, daughter, ___
 
Medications on Admission:
Vitamin C
 
Discharge Medications:
None
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnoses
==================
Vasovagal syncope 

Secondary diagnoses
====================
1st degree heart block
Musculoskeletal strain
 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at the ___ 
___!  

Why was I admitted to the hospital?  
===================================
- You were admitted because you had fell three times.   

What happened while I was in the hospital?  
===========================================
- You had a workup done to rule out any dangerous causes of 
losing consciousness. This showed that you did not have any 
blood clots in your lungs or legs. You also were not having a 
heart attack or were having any heart failure. You also were not 
dehydrated.

- You had a slightly abnormal heart rhythm called first degree 
heart block. This is not dangerous, but your doctor should know 
about it. 

What should I do after leaving the hospital?  
============================================
- Stay hydrated.

- Monitor your symptoms closely and return to the emergency room 
if you have any more episodes of passing out. 

- See your primary care doctor when you return to ___. 

Thank you for allowing us to be involved in your care, we wish 
you all the best!  

Sincerely,

Your ___ Healthcare Team  
 
Followup Instructions:
___